US04107307
6-n-Propyl-imidazo[1,5-d]-as-triazin-4(3H)-one
An 8.75 gm. portion of 3-(2-n-propyl-4-imidazolylmethylene)carbazic acid ethyl ester in 50 ml. of diphenyl ether is reacted as described in Example 70 giving the desired product, m.p. 159°-162.5° C.

reactant | 3-(2-n-propyl-4-imidazolylmethylene)carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1)CCC)=O | C10H16N4O2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-n-Propyl-imidazo[1,5-d]-as-triazin-4(3H)-one | C(CC)C1=NC=C2N1C(NN=C2)=O | C8H10N4O
